US06340759B1
4-Benzyloxy-3-fluorophenylboric acid (1.97 g) and 3-bromo-1-(4-ethylpiperazin-1-yl)isoquinoline (2.57 g) were heated under reflux in the presence of tetrakistriphenylphosphinepalladium(0) (0.09 g) in toluene (250 ml) and a 10% aqueous solution of sodium carbonate (150 ml) in nitrogen atmosphere for 2 hr. 4-Benzyloxy-3-fluorophenylboric acid (0.99 g) was additionally added thereto, and the mixture was heated under reflux for 30 min. 4-Benzyloxy-3-fluorophenylboric acid (1.43 g) was again added thereto, and the mixture was heated under reflux overnight. The organic layer was separated and extracted with 2N hydrochloric acid twice, and the resulting aqueous layer was washed with ethyl acetate. Then, it was adjusted to pH 10 by a 8N aqueous solution of sodium hydroxide, extracted with ethyl acetate, washed with a 10% aqueous solution of sodium carbonate and brine, and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (chloroform/methanol system), to give obtain 1-(4-ethylpiperazin-1-yl)-3-(4-benzyloxy-3-fluorophenyl)isoquinoline (3.19 g) as a brown viscous oil.

reactant | 4-Benzyloxy-3-fluorophenylboric acid | 1.97 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OB(O)O)F | C13H12BFO4
reactant | 3-bromo-1-(4-ethylpiperazin-1-yl)isoquinoline | 2.57 g | BrC=1N=C(C2=CC=CC=C2C1)N1CCN(CC1)CC | C15H18BrN3
reactant | sodium carbonate | 150 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-Benzyloxy-3-fluorophenylboric acid | 0.99 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OB(O)O)F | C13H12BFO4
reactant | 4-Benzyloxy-3-fluorophenylboric acid | 1.43 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OB(O)O)F | C13H12BFO4
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakistriphenylphosphinepalladium(0) | 0.09 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4-ethylpiperazin-1-yl)-3-(4-benzyloxy-3-fluorophenyl)isoquinoline | 3.19 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC(=C(C=C1)OCC1=CC=CC=C1)F | C28H28FN3O
